US07977331B1
To a solution of 4-methyl-3-nitrobenzenesulfonyl chloride (5.40 g, 22.9 mmol) in chloroform (50 ml) was added tert-butylamine (6.00 ml, 57.1 mmol) under ice-cooling, and the mixture was stirred at room temperature for 2.5 hr. To the reaction mixture was added 1N hydrochloric acid, and the mixture was extracted with chloroform. The organic layer was successively washed with water, saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure, and hexane was added to the residue. The precipitated solid was collected by filtration and dried in vacuo to give N-tert-butyl-4-methyl-3-nitrobenzenesulfonamide (5.89 g, yield 94.6%).

reactant | 4-methyl-3-nitrobenzenesulfonyl chloride | 22.9 mmol, 5.40 g | CC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C7H6ClNO4S
reactant | tert-butylamine | 57.1 mmol, 6.00 ml | C(C)(C)(C)N | C4H11N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-tert-butyl-4-methyl-3-nitrobenzenesulfonamide | 5.89 g, yield 94.6% | C(C)(C)(C)NS(=O)(=O)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C11H16N2O4S
